US07186734B2
Step 5. Preparation of 4-Bromomethyl-5-butyl-2-chloro-6-phenyl-pyrimidine
A solution of the 5-butyl-2-chloro-4-methyl-6-phenyl-pyrimidine (215 mg, 0.825 mmol) and Br2 (0.042 ml, 0.825 mmol) in AcOH (2 mL) is stirred at 80° C. for 2 hours. After cooling, the solution is concentrated. The residue is partitioned between Et2O and half saturated aqueous NaHCO3. The layers are separated, and the aqueous layer is reextracted once with Et2O. The combined extracts are dried over Na2SO4 and concentrated to 305 mg of crude 4-bromomethyl-5-butyl-2-chloro-6-phenyl-pyrimidine, which also contains small amounts of SM and dibromo material. This material is used without further purification.

reactant | 5-butyl-2-chloro-4-methyl-6-phenyl-pyrimidine | 0.825 mmol, 215 mg | C(CCC)C=1C(=NC(=NC1C1=CC=CC=C1)Cl)C | C15H17ClN2
reactant | Br2 | 0.825 mmol, 0.042 ml | BrBr | Br2
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
product | 4-Bromomethyl-5-butyl-2-chloro-6-phenyl-pyrimidine | BrCC1=NC(=NC(=C1CCCC)C1=CC=CC=C1)Cl | C15H16BrClN2
